US08258131B2
(1) Preparation of 2,2-diethyl-7-hydroxy-3,4-dihydro-2H-chromen-4-one
Pyrrolidine (9.3 g) and pentan-3-one (11.3 g) were added to a solution of 1-(2,4-dihydroxyphenyl)ethanone (14 g) in methanol (150 mL) and the solution was stirred for 24 hours and then heated under reflux for 10 hours. The reaction mixture was concentrated in vacuo, and to the residue was added water (10 mL). To the mixture was added 1N hydrochloric acid solution to adjust its pH to 5 to 6, and extracted with ethyl acetate (25 mL×3). The combined organic layer was dried over sodium sulfate, filtered and the filtrate was concentrated in vacuo. The resultant crude product was purified by column chromatography on silica gel (Solvent; petroleum ether/ethyl acetate=10/1) to give the titled compound (8 g) as a colorless powder.

reactant | Pyrrolidine | 9.3 g | N1CCCC1 | C4H9N
reactant | pentan-3-one | 11.3 g | CCC(CC)=O | C5H10O
reactant | 1-(2,4-dihydroxyphenyl)ethanone | 14 g | OC1=C(C=CC(=C1)O)C(C)=O | C8H8O3
solvent | methanol | 150 mL | CO | CH4O
product | 2,2-diethyl-7-hydroxy-3,4-dihydro-2H-chromen-4-one | 8 g | C(C)C1(OC2=CC(=CC=C2C(C1)=O)O)CC | C13H16O3
